US07713979B2
Cis-1-azido-2-methyl-cyclohexane
Dissolve trans-2-methyl-cyclohexanol (5.0 g, 44.0 mmol) in anhydrous THF (500 mL) and cool to −20° C. Add triphenylphosphine (57.43 g, 218.9 mmol), diethyl azodicarboxylate (38.13 g, 218.9 mmol), and diphenylphosphoryl azide (60.25 g, 218.9 mmol) respectively under nitrogen. Stir the reaction mixture for 6 hours at the same temperature then warm it to room temperature and stir overnight Add water (500 mL), and extract the aqueous layer with EtOAc (3×500 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 0-25% of EtOAc/Hexane) to give 3.98 g (65%) of the title compound as a colorless oil: 1H NMR (CDCl3) δ 3.08-3.16 (m, 1H), 1.90-1.98 (m, 1H), 1.56-1.78 (m, 3H), 1.16-1.35 (m, 4H), 1.01 (d, 3H), 0.93-1.03 (m, 1H).

reactant | trans-2-methyl-cyclohexanol | 44.0 mmol, 5.0 g | C[C@H]1[C@@H](CCCC1)O | C7H14O
reactant | triphenylphosphine | 218.9 mmol, 57.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 218.9 mmol, 38.13 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 218.9 mmol, 60.25 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | water | 500 mL | O | H2O
product | Cis-1-azido-2-methyl-cyclohexane | 3.98 g, 65% | N(=[N+]=[N-])[C@H]1[C@H](CCCC1)C | C7H13N3
